US07816552B2
N-[5-(3,5-Dimethyl-4-nitrophenoxy)-2-nitrophenyl]-N-methylamine (Step 2a)
To a solution of N-(5-chloro-2-nitrophenyl)-N-methylamine (0.86 g) and 3,5-dimethyl-4-nitrophenol (0.76 g) in N,N-dimethylacetamide (12 ml) was added potassium t-butoxide (0.554 g) at room temperature, and the resulting mixture was stirred successively at the same temperature for 20 minutes, at 100° C. for 10 minutes, at 125° C. for 45 minutes, and at 140° C. for 1 hour. After cooling the reaction mixture to 0° C., the reaction mixture was adjusted to a pH of about 3 with 3N hydrochloric acid. The crystalline solid precipitated was collected by filtration, washed successively with 3N hydrochloric acid and water and air-dried for 3 days to afford the title compound (1.16 g, yield: 80%).

reactant | N-(5-chloro-2-nitrophenyl)-N-methylamine | 0.86 g | ClC=1C=CC(=C(C1)NC)[N+](=O)[O-] | C7H7ClN2O2
reactant | 3,5-dimethyl-4-nitrophenol | 0.76 g | CC=1C=C(C=C(C1[N+](=O)[O-])C)O | C8H9NO3
reactant | potassium t-butoxide | 0.554 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | N,N-dimethylacetamide | 12 ml | CN(C(C)=O)C | C4H9NO
product | N-[5-(3,5-Dimethyl-4-nitrophenoxy)-2-nitrophenyl]-N-methylamine | 1.16 g, yield: 80% | CC=1C=C(OC=2C=CC(=C(C2)NC)[N+](=O)[O-])C=C(C1[N+](=O)[O-])C | C15H15N3O5
